US07612114B2
6-{2-{[4-(2-Azepan-1-ylethyl)benzyl]ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (50 mg) and 4-(2-azepan-1-ylethyl)benzoic acid hydrochloride (100 mg) according to an analogous synthetic method to Example 337 described below, the title compound (32 mg) was obtained.

reactant | pivalic acid 6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 50 mg | C(C)NC1=C(C=C(C(=C1)OC)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C25H33NO4
reactant | 4-(2-azepan-1-ylethyl)benzoic acid hydrochloride | 100 mg | Cl.N1(CCCCCC1)CCC1=CC=C(C(=O)O)C=C1
product | 6-{2-{[4-(2-Azepan-1-ylethyl)benzyl]ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 32 mg | N1(CCCCCC1)CCC1=CC=C(CCCNC2=C(C=C(C(=C2)OC)OC)C2CC=3C=CC(=CC3CC2)O)C=C1 | C35H46N2O3
